US08809525B2
3-Pyridylglyoxal (5.0 g, crude) was prepared from selenium dioxide (6.82 g, 61.4 mmol) and 3-acetyl pyridine (5.0 g, 41.0 mmol) according to the typical procedure used for Preparation 1.

reactant | selenium dioxide | 61.4 mmol, 6.82 g | [Se](=O)=O | O2Se
reactant | 3-acetyl pyridine | 41.0 mmol, 5.0 g | C(C)(=O)C=1C=NC=CC1 | C7H7NO
product | 3-Pyridylglyoxal | 5.0 g | N1=CC(=CC=C1)C(=O)C=O | C7H5NO2
